Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8][H:9],4.40944818393
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10].[H:11],4.671490491319999
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.65454893613
[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-2.70990006657
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12],4.15286246806
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],6.19052176303
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[O:9],0.23964836398000006
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8][H:9],5.31301288851
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15][H:16],4.96705856552
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C:9]([H:10])=[C:11][H:12].[O:7][H:8],4.9183655735
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],1.93582402732
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11],-1.37225904195
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-1.85247658665
[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.53590115809
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9][H:10])=[O:11],3.4565261528500004
[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8]>>[C:3]=[O:7].[O:1]([C:2][C:4]#[C:5][H:6])[H:8],1.7943146436400002
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1],6.60756723903
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],2.9127311112400003
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.48858861208
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3],2.97421292447
[C:4]#[C:5][H:6].[O:1]=[C:2]([O:3])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.94955657933
[H:8].[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]#[C:9][H:10]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10],-1.7015123871899998
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.23538211375
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:10][H:11]>>[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-2.67937377416
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.25178236045
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],3.91139920341
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.341410424619999
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.76525227202
